US04708955
7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-butenyl]-3-cephem-4-carboxylic acid (Ia, R2 =CH3, R3 =CH3)
A mixture of diphenylmethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-butenyl]-3-cephem-4-carboxylate (1.65 g, 2.65 mmoles) and anisole (0.5 ml) was treated with TFA (5 ml) at room temperature for 1 hour. The mixture was diluted with IPE. The resulting precipitate*1 was collected by filtration and chromatographed on a column of the packing (50 ml) of a PrepPAK cartridge (Waters) with 20-30% methanol to yield 605 mg (52%) of the title compound. Estimated purity 90% (by HPLC). Mp.>160° C. (grad. dec.).

reactant | diphenylmethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-butenyl]-3-cephem-4-carboxylate | 2.65 mmoles, 1.65 g | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/CC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C30H29N5O5S2
reactant | anisole | 0.5 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-butenyl]-3-cephem-4-carboxylic acid | 605 mg, 52% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/CC)C(=O)O)C1=O)=N/OC | C17H19N5O5S2
